US06432976B1
3-Benzyl-6-(tetrahydro-pyran-2-yloxy)-8-aza-bicyclo[3.2.1]octane-8-carboxylic Acid Ethyl Ester
Hydrogenation of the 3-benzylidene-6-(tetrahydro-pyran-2-yloxy)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester similarly to the procedure described in Step 4 of Example 1 over 5% platinum on carbon gave 0.3 g of a resin.

reactant | 3-benzylidene-6-(tetrahydro-pyran-2-yloxy)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | C(C)OC(=O)N1C2CC(CC1C(C2)OC2OCCCC2)=CC2=CC=CC=C2 | C22H29NO4
catalyst | platinum on carbon | [Pt] | Pt
product | 3-Benzyl-6-(tetrahydro-pyran-2-yloxy)-8-aza-bicyclo[3.2.1]octane-8-carboxylic Acid Ethyl Ester | 0.3 g | C(C)OC(=O)N1C2CC(CC1C(C2)OC2OCCCC2)CC2=CC=CC=C2 | C22H31NO4
